US05252732
To a stirred solution of tri(benzothien-2-yl)bismuthine (100 mg., 0.164 mmol.) in CH2Cl2 (2 mL.) was added peracetic acid (0.050 mL., 0.224 mmol., 32% in acetic acid) followed in 10 minutes by 17-ethyl-1, 14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclo-hexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg., 0.126 mmol.) and Cu(OAc)2 (15 mg., 0.083 mmol.). The reaction mixture was stirred for 16 hours at room temperature. The reaction was then quenched with saturated aqueous NaHCO3 and the mixture extracted 3× with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC 3× on silica gel (3:1, hexane/acetone) to give 23 mg of 17-ethyl-1,14-dihydroxy-12-[ 2'-(4"-(benzothien-2-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | tri(benzothien-2-yl)bismuthine | 0.164 mmol, 100 mg | S1C(=CC2=C1C=CC=C2)[Bi](C=2SC1=C(C2)C=CC=C1)C=1SC2=C(C1)C=CC=C2
reactant | peracetic acid | 0.224 mmol, 0.050 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1, 14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclo-hexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.083 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[ 2'-(4"-(benzothien-2-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 23 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2SC1=C(C2)C=CC=C1)OC)C)C)O)=O | C51H73NO12S
